US08124299B2
1-(trimethylsilylethynyl)-4-(4-methylphenylethynyl)benzene.
Into a 50 ml round bottom flask was placed a mixture of 0.64 g (0.0054 mole) of 4-methylphenylacetylene, 1.50 g (0.005 mole) of 4-iodophenyltrimethylsilylacetylene, 0.011 g (0.0058 mmole) of CuI, 0.103 g (0.146 mmole) of bis(triphenylphosphine)palladium(II) dichloride in 10 ml of THF and 10 ml of triethylamine. The brown solution turned to an orange-yellow suspension when solid started to form. The mixture was stirred at room temperature under nitrogen for 3 days. It was filtered and the filtrate concentrated under reduced pressure. The residue was redissolved in 25 ml of chloroform and the solution was washed two times with water (15 ml each) and then dried over anhydrous MgSO4, filtered and concentrated. 1.43 g (quantitative yield) of solid was obtained. 1HNMR indicated ˜10% of by product present. The solid product was used for the next step without further purification.

reactant | 4-methylphenylacetylene | 0.0054 mole, 0.64 g | CC1=CC=C(C=C1)C#C | C9H8
reactant | 4-iodophenyltrimethylsilylacetylene | 0.005 mole, 1.50 g | IC1=CC=C(C=C1)C#C[Si](C)(C)C | C11H13ISi
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | CuI | 0.0058 mmole, 0.011 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.146 mmole, 0.103 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(trimethylsilylethynyl)-4-(4-methylphenylethynyl)benzene | 1.43 g, quantitative yield | C[Si](C)(C)C#CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C | C20H20Si
